US04127720
B. 4-Oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid
A solution of ethyl 4-imino-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (1.0 g.) in acetic acid (20 ml.) and 37% hydrochloric acid (20 ml.) was refluxed for 35 minutes. The solution was cooled and diluted with H2O to precipitate the crude acid (760 mg.), m.p. 219°-231° (prior softening). Recrystallized material (2-methoxyethanol) and a m.p. of 249°-252° and mixed melting point of 252°-255° with product from Example 2.

reactant | ethyl 4-imino-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 1.0 g | N=C1C(=CN=C2N1C=CC1=CC=CC=C21)C(=O)OCC | C15H13N3O2
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | H2O | O | H2O
product | 4-Oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylic Acid | O=C1C(=CN=C2N1C=CC1=CC=CC=C21)C(=O)O | C13H8N2O3
